US04478849
N-[2-(4-Carboxyphenyl)-1-methylethyl]-2-hydroxy-2-(4-hydroxy-3-hydroxymethylphenyl) ethanamine
2-Hydroxy-2-(4-hydroxy-3-hydroxymethylphenyl) ethanamine (1.09 g) and 1-(4-carbobenzyloxyphenyl) propan-2-one (1.6 g) were refluxed in xylene in a Dean and Stark apparatus until the theoretical amount of water had been collected. The solvent was removed, ethanol added and the mixture hydrogenated at 70 psi and 50° for 3 hours using 10% Pd/c as catalyst. Filtration of the catalyst and evaporation of the solvent gave the title compound as a foam τ(d6DMSO) 8.95 (3H, d, J=7 Hz), 6.8-7.4 (5H, m), 5.5 (2H, s+1H, t), 3.65 (5H, broad), 2.3-3.3 (5H, m), 2.0 (2H, d, J=8 Hz).

reactant | 2-Hydroxy-2-(4-hydroxy-3-hydroxymethylphenyl) ethanamine | 1.09 g | OC(CN)C1=CC(=C(C=C1)O)CO | C9H13NO3
reactant | 1-(4-carbobenzyloxyphenyl) propan-2-one | 1.6 g | C(=O)(OCC1=CC=CC=C1)C1=CC=C(C=C1)CC(C)=O | C17H16O3
reactant | water | O | H2O
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | N-[2-(4-Carboxyphenyl)-1-methylethyl]-2-hydroxy-2-(4-hydroxy-3-hydroxymethylphenyl) ethanamine | C(=O)(O)C1=CC=C(C=C1)CC(C)NCC(C1=CC(=C(C=C1)O)CO)O | C19H23NO5
